US04940710
(racemic)-N-Ethyl-6,8-difluoro-7-[3-(fluoromethyl)-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 500 mg of 1-ethyl-1,4-dihydro-6,7,8-trifluoro-4-oxo-3-quinolinecarboxylic acid, 650 mg of racemic 3-fluoromethylpiperazine and 5 ml of pyridine was stirred at 80° C. in a sealed bottle under nitrogen for 2.5 hours. The solvents were removed and the residue triturated with methanol. The solid was collected, washed with methanol and dried, giving 376 mg of the desired product, mp 230°-235° C. (dec.).

reactant | 1-ethyl-1,4-dihydro-6,7,8-trifluoro-4-oxo-3-quinolinecarboxylic acid | 500 mg | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | racemic 3-fluoromethylpiperazine | 650 mg | FCC1CNCCN1 | C5H11FN2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | (racemic)-N-Ethyl-6,8-difluoro-7-[3-(fluoromethyl)-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 376 mg | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(NCC1)CF)F)=O)C(=O)O | C17H18F3N3O3
